US04339449
To a solution of benzyl 7-phenoxyacetamido-8-oxo-3-trifluoromethanesulfonyl-5-thia-1,3-diazabicyclo[4,2,0]octane-2-carboxylate (1.172 g.) in methylene chloride (10 ml.) was added dropwise a solution of m-chloroperbenzoic acid (430 mg.) in methylene chloride (6 ml.) at 0° C. with stirring over a period of 20 minutes, and the mixture was stirred for an additional 15 minutes. The mixture was diluted with methylene chloride and washed with a chilled dilute aqueous solution of sodium bicarbonate and a mixture of a dilute aqueous solution of sodium chloride and an aqueous solution of sodium bicarbonate. Drying over magnesium sulfate and removal of the solvent left an amorphous solid (1.2 g.), which was chromatographed on silica gel (17 g.) with methylene chloride and then a mixed solvent of methylene chloride and ethyl acetate as an eluent to give an amorphous solid (1.10 g.) of benzyl 7-phenoxyacetamido-8-oxo-3-trifluoromethanesulfonyl-5-thia-1,3-diazabicyclo[4,2,0]octane-2-carboxylate-5-oxide.

reactant | benzyl 7-phenoxyacetamido-8-oxo-3-trifluoromethanesulfonyl-5-thia-1,3-diazabicyclo[4,2,0]octane-2-carboxylate | 1.172 g | O(C1=CC=CC=C1)CC(=O)NC1C2SCN(C(N2C1=O)C(=O)OCC1=CC=CC=C1)S(=O)(=O)C(F)(F)F | C22H20F3N3O7S2
reactant | m-chloroperbenzoic acid | 430 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | benzyl 7-phenoxyacetamido-8-oxo-3-trifluoromethanesulfonyl-5-thia-1,3-diazabicyclo[4,2,0]octane-2-carboxylate-5-oxide | 1.10 g | O(C1=CC=CC=C1)CC(=O)NC1C2S(CN(C(N2C1=O)C(=O)OCC1=CC=CC=C1)S(=O)(=O)C(F)(F)F)=O | C22H20F3N3O8S2
